.SUBCKT mjd127 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jun  4, 03
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 1.37786
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=12.9914 N=1.02991 XTI=3.02991
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=4.75193e-12 BF=250.891 NF=1.0828 VAF=30
+IKF=0.299207 ISE=2.37349e-12 NE=1.38297 BR=0.1
+NR=1.5 VAR=81.5514 IKR=0.103457 ISC=2.37349e-12
+NC=2.02711 RB=5.83046 IRB=0.1 RBM=0.1
+RE=0.0807234 RC=0.403617 XTB=0 XTI=4 EG=1.05
+CJE=1.45279e-10 VJE=0.897649 MJE=0.439538 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.44358e-10
+VJC=0.95 MJC=0.250536 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=4.75193e-12 BF=250.891 NF=1.0828 VAF=30
+IKF=0.299207 ISE=2.37349e-12 NE=1.38297 BR=0.1
+NR=1.5 VAR=81.5514 IKR=0.103457 ISC=2.37349e-12
+NC=2.02711 RB=5.83046 IRB=0.1 RBM=0.1
+RE=0.0807234 RC=0.403617 XTB=0 XTI=4 EG=1.05
+CJE=1.45279e-10 VJE=0.897649 MJE=0.439538 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.250536 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS mjd127

